US03991106
Preparation of 7-{N-[4-Hydroxy-5-(4-fluorophenylthio)pentyl]-methanesulfonamido}heptanoic Acid
The synthesis of this compound is carried out as described in Example 1 except that, in Step D, the p-fluorophenol is replaced by an equimolar amount of 4-fluorothiophenol. The product of Step D is thus ethyl 7-{N-[4-hydroxy-5-(4-fluorophenylthio)pentyl]methanesulfonamido}-heptanoate.

reactant | p-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 4-fluorothiophenol | FC1=CC=C(C=C1)S | C6H5FS
reactant | ethyl 7-{N-[4-hydroxy-5-(4-fluorophenylthio)pentyl]methanesulfonamido}-heptanoate | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)CSC1=CC=C(C=C1)F | C21H34FNO5S2
product | 7-{N-[4-Hydroxy-5-(4-fluorophenylthio)pentyl]-methanesulfonamido}heptanoic Acid | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)O)CSC1=CC=C(C=C1)F | C19H30FNO5S2
